US06245925B1
(2) Synthesis of (2-methyldichlorosilylethyl)methyldichlorosilylcyclohexane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 111.6 g (0.50 mol) of 4-(2-methyldichlorosilylethyl)-1-cyclohexene and 0.1 g of a 20 wt % isopropanol solution of chloroplatinic acid, which were heated at 80° C. After the internal temperature became constant, 63.3 g (0.55 mol) of methyldichlorosilane was added dropwise over 5 hours. After the completion of addition, the reaction solution was stirred for 8 hours at 80° C. The reaction solution was distilled, collecting 136.0 g of (2-methyldichlorosilylethyl)methyldichlorosilylcyclohexane as a fraction having a boiling point of 122-124° C./0.1 mmHg (yield 80.4%).

reactant | 4-(2-methyldichlorosilylethyl)-1-cyclohexene | 0.50 mol, 111.6 g | CC(CC1CC=CCC1)[SiH](Cl)Cl | C9H16Cl2Si
reactant | methyldichlorosilane | 0.55 mol, 63.3 g | C[SiH](Cl)Cl | CH4Cl2Si
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | (2-methyldichlorosilylethyl)methyldichlorosilylcyclohexane | yield 80.4% | CC(CC1C(CCCC1)([SiH](Cl)Cl)C)[SiH](Cl)Cl | C10H20Cl4Si2
